US05457104
b) 3-Chloro-2,4-difluoro-benzoyl chloride
Thionyl chloride is metered at 70° C. to a suspension of 235 g (1.22 mol) of 3-chloro-2,4-difluorobenzoic acid in 800 ml of toluene and 3 ml of dimethylformamide until a clear solution has formed and evolution of gas is no longer observed. The toluene and excess thionyl chloride are then distilled off, and the product is subsequently obtained by distillation.

reactant | Thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 3-chloro-2,4-difluorobenzoic acid | 1.22 mol, 235 g | ClC=1C(=C(C(=O)O)C=CC1F)F | C7H3ClF2O2
solvent | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 3-Chloro-2,4-difluoro-benzoyl chloride | ClC=1C(=C(C(=O)Cl)C=CC1F)F | C7H2Cl2F2O
